US04764514
A mixture of 2-(4-oxo-3-thiazolidinyl)propionic acid (2.00 g), 2.6-dimethylaniline (1.38 g), and dicyclohexylcarbodiimide (2.35 g) in chloroform (15 ml) was refluxed for 48 hours. The resultant precipitate was removed by filtration and the filtrate was evaporated in vacuo. The residue was triturated with diethyl ether and recrystallized from ethanol to give N-(2,6-dimethylphenyl)-2-(4-oxo-3-thiazolidinyl)propionamide (1.45 g) as colorless prisms.

reactant | 2-(4-oxo-3-thiazolidinyl)propionic acid | 2.00 g | O=C1N(CSC1)C(C(=O)O)C | C6H9NO3S
reactant | 2.6-dimethylaniline | 1.38 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | dicyclohexylcarbodiimide | 2.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2,6-dimethylphenyl)-2-(4-oxo-3-thiazolidinyl)propionamide | 1.45 g | CC1=C(C(=CC=C1)C)NC(C(C)N1CSCC1=O)=O | C14H18N2O2S
